US08629270B2
tert-Butyl(3S,4R)-3-(benzoylcarbamothioylamino)-4-(hydroxymethyl)-3-phenyl-pyrrolidine-1-carboxylate
A mixture of tert-butyl-1-(benzoylcarbamothioyl)-6a-phenyl-3,3a,4,6-tetrahydropyrrolo[3,4-c]isoxazole-5-carboxylate (2.3 g, 5.1 mmol), acetic acid (20 mL), and powdered zinc (3.3 g, 50 mmol) is vigorously stirred at 40° C. for 1 hour, followed by an additional hour at 45-50° C. The reaction is concentrated under reduced pressure. To the residue is added diatomaceous earth and water, followed by a saturated solution of sodium bicarbonate. The mixture is filtered and washed with ethyl acetate. The filtrate is extracted with ethyl acetate. The organic layers are combined, dried over sodium sulfate, filtered, and concentrated under reduced pressure to give a residue. The residue is purified by silica gel flash chromatography, eluting with hexane/ethyl acetate (1:0) to hexane/ethyl acetate (0:1) to give the title compound (1.6 g, 70%). ES/MS (m/e): 456 (M+H).

reactant | tert-butyl-1-(benzoylcarbamothioyl)-6a-phenyl-3,3a,4,6-tetrahydropyrrolo[3,4-c]isoxazole-5-carboxylate | 5.1 mmol, 2.3 g | C(C)(C)(C)OC(=O)N1CC2(N(OCC2C1)C(NC(C1=CC=CC=C1)=O)=S)C1=CC=CC=C1 | C24H27N3O4S
catalyst | zinc | 50 mmol, 3.3 g | [Zn] | Zn
solvent | acetic acid | 20 mL | C(C)(=O)O | C2H4O2
product | tert-Butyl(3S,4R)-3-(benzoylcarbamothioylamino)-4-(hydroxymethyl)-3-phenyl-pyrrolidine-1-carboxylate | 1.6 g, 70% | C(C1=CC=CC=C1)(=O)NC(=S)N[C@]1(CN(C[C@H]1CO)C(=O)OC(C)(C)C)C1=CC=CC=C1 | C24H29N3O4S
